US05011931
A solution of 3-chloroperoxybenzoic acid (3.49 g) in dichloromethane (80 ml) was added to a stirred solution of 1-(4-fluoro-2-methylaminophenyl)-2(methylthio)ethanone (4.3 g), prepared in a similar manner to that described in Example 2, in dichloromethane (75 ml) under nitrogen over 15 minutes whilst maintaining the temperature below 25°. The mixture was stirred for a further 2 hours at ambient temperature. The solution was washed with saturated aqueous sodium hydrogen carbonate solution (3×50 ml) an evaporated in vacuo to give a solid product. Crystallisation from toluene gave 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone, m.p. 137°-138°.

reactant | 3-chloroperoxybenzoic acid | 3.49 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-(4-fluoro-2-methylaminophenyl)-2(methylthio)ethanone | 4.3 g | FC1=CC(=C(C=C1)C(CSC)=O)NC | C10H12FNOS
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone | FC1=CC(=C(C=C1)C(CS(=O)C)=O)NC | C10H12FNO2S
